US04603139
(a) 2-[4-Methoxy-2-(3-chloropropoxy)phenyl]-1H-imidazo[4,5-c]pyridine
A mixture of 3,4-diaminopyridine and 2-(3-chloropropoxy)-4-methoxybenzoic acid in phosphorus oxychloride was stirred at reflux for 4 hours. The excess phosphorus oxychloride was then removed in vacuo and the residue carefully treated with water before basifying with dilute ammonia hydroxide and extracting with chloroform. The crude product was then dissolved in ethyl acetate, decolourised with charcoal and triturated with ethereal HCl to give the title compound m.p. 174°-176° C.

reactant | 3,4-diaminopyridine | NC=1C=NC=CC1N | C5H7N3
reactant | 2-(3-chloropropoxy)-4-methoxybenzoic acid | ClCCCOC1=C(C(=O)O)C=CC(=C1)OC | C11H13ClO4
solvent | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-[4-Methoxy-2-(3-chloropropoxy)phenyl]-1H-imidazo[4,5-c]pyridine | COC1=CC(=C(C=C1)C=1NC2=C(C=NC=C2)N1)OCCCCl | C16H16ClN3O2
